US05173485
To a solution of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-(4,5,6,7-tetrahydro-1-pyrazolo[1,5-a]pyrimidinio)methyl-3-cephem-4-carboxylate (syn isomer) (1 g) in water (3 ml) was added 2N hydrochloric acid (1 ml) at room temperature. The mixture was stirred at ambient temperature for 3 hours, and the resulting precipitate was collected by filtration to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-(4,5,6,7-tetrahydro-1-pyrazolo[1,5-a]-pyrimidinio)methyl-3-cephem-4-carboxylate hydrochloride (syn isomer) (202 mg) as crystals.

reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-(4,5,6,7-tetrahydro-1-pyrazolo[1,5-a]pyrimidinio)methyl-3-cephem-4-carboxylate | 1 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=C3N2CCCN3)C(=O)[O-])C1=O)=NOCC=C | C21H23N9O5S2
reactant | hydrochloric acid | 2N, 1 ml | Cl | ClH
solvent | water | 3 ml | O | H2O
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-allyloxyiminoacetamido]-3-(4,5,6,7-tetrahydro-1-pyrazolo[1,5-a]-pyrimidinio)methyl-3-cephem-4-carboxylate hydrochloride | 202 mg | Cl.NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=C3N2CCCN3)C(=O)[O-])C1=O)=NOCC=C | InChI=1S/C21H23N9O5S2.ClH/c1-2-8-35-26-13(16-25-21(22)37-27-16)17(31)24-14-18(32)30-15(20(33)34)11(10-36-19(14)30)9-28-7-4-12-23-5-3-6-29(12)28;/h2,4,7,14,19H,1,3,5-6,8-10H2,(H4,22,24,25,27,31,33,34);1H/t14-,19-;/m1./s1
